US08912186B2
Commercial 4-iodo-2-nitroaniline was reduced with 5 eq tin dichloride dihydrate in ethanol solution (75° C., 2 h) to give 92% 4-iodo-1,2-phenylenediamine as light red solid.

reactant | 4-iodo-2-nitroaniline | IC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5IN2O2
reactant | tin dichloride dihydrate | 5 eq | O.O.[Sn](Cl)Cl
solvent | ethanol | C(C)O | C2H6O
product | 4-iodo-1,2-phenylenediamine | 92% | IC1=CC(=C(C=C1)N)N | C6H7IN2
